US07183306B2
To a solution of 4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5- yl]phenol (501 mg) in CH2Cl2 (5 ml) was added trifluoromethanesulfonic anhydride (300 μl) and diisopropylethylamine (324 μl) under ice-bath cooling. The mixture was stirred at same temperature for 2 hours. Additional trifluoromethanesulfonic anhydride (57 μl) and diisopropylethylamine (147 μl) were added and stirring at same temperature was continued for 1 hour. The mixture was washed with 1M HCl, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted with AcOEt/n-hexane=20% to give 4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]-phenyl trifluoromethanesulfonate (712.3 mg) as an oil.

reactant | 4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5- yl]phenol | 501 mg | COC1=NN(C(=C1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)OC | C17H16N2O3
reactant | trifluoromethanesulfonic anhydride | 300 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | diisopropylethylamine | 324 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoromethanesulfonic anhydride | 57 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | diisopropylethylamine | 147 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-methoxy-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]-phenyl trifluoromethanesulfonate | 712.3 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)OC)(F)F | C18H15F3N2O5S
